US05359098
2-(4-Chlorophenyl)-6-[6-(4-hydroxypiperidinyl)hexoxy]-4H-1-benzopyran-4-one
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, 4-chlorobenzoyl chloride, 1-bromo-6-chlorohexane, and 4-hydroxypiperidine: mp 127°-128° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 2-(4-Chlorophenyl)-6-[6-(4-hydroxypiperidinyl)hexoxy]-4H-1-benzopyran-4-one | ClC1=CC=C(C=C1)C=1OC2=C(C(C1)=O)C=C(C=C2)OCCCCCCN2CCC(CC2)O | C26H30ClNO4
